### PR TITLE
[Merged by Bors] - feat(Combinatorics/SimpleGraph/Connectivity): add lemma `not_reachable_of_{left, right}_degree_zero`

### PR DESCRIPTION
**Pull request by IvanRenison**
---

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/Combinatorics/SimpleGraph/Connectivity/Connected.lean [hunk 1]
```diff
@@ -183,6 +183,21 @@ lemma Reachable.of_subsingleton {G : SimpleGraph V} [Subsingleton V] {u v : V} :
     G.Reachable u v := by
   rw [Subsingleton.allEq u v]
 
+lemma not_reachable_of_degree_zero {V : Type*} {G : SimpleGraph V} {u v : V}
+    (huv : u ≠ v) [Fintype (G.neighborSet u)] (hu : G.degree u = 0) :
```
Comment (b-mehta) [inline Mathlib/Combinatorics/SimpleGraph/Connectivity/Connected.lean]:
```suggestion
lemma not_reachable_of_degree_zero {G : SimpleGraph V} {u v : V} [Fintype (G.neighborSet u)]
    (huv : u ≠ v) (hu : G.degree u = 0) :
```
(re-using the V from outside, and putting the typeclass argument before the propositional one)

File: Mathlib/Combinatorics/SimpleGraph/Connectivity/Connected.lean [hunk 2]
```diff
@@ -183,6 +183,21 @@ lemma Reachable.of_subsingleton {G : SimpleGraph V} [Subsingleton V] {u v : V} :
     G.Reachable u v := by
   rw [Subsingleton.allEq u v]
 
+lemma not_reachable_of_degree_zero {V : Type*} {G : SimpleGraph V} {u v : V}
```
Comment (b-mehta) [inline Mathlib/Combinatorics/SimpleGraph/Connectivity/Connected.lean]: perhaps `not_reachable_left_of_degree_zero` and `_right_` for the other?

**Review by b-mehta — APPROVED** [review]

File: Mathlib/Combinatorics/SimpleGraph/Connectivity/Connected.lean (hunk 2 above)
Comment (IvanRenison) [reply Mathlib/Combinatorics/SimpleGraph/Connectivity/Connected.lean]: What about `not_reachable_of_left_degree_zero`?

Comment (b-mehta) [reply Mathlib/Combinatorics/SimpleGraph/Connectivity/Connected.lean]: that works too

**Review by b-mehta — COMMENTED** [review]
Thanks!

bors merge
